US08445490B2
To a solution of crude tert-butyl 4,4′-(6-(2,2,2-trifluoroethoxy)-1,3,5-triazine-2,4-diyl)bis(azanediyl)dibenzoate (562 mg) in CH2Cl2 (10 mL) was added TFA (3 mL). The mixture was stirred at room temperature for 16 hours. All solvents were removed under vacuum. The residue was purified by preparative HPLC to give 4,4′-(6-(2,2,2-trifluoroethoxy)-1,3,5-triazine-2,4-diyl)bis(azanediyl)dibenzoic acid (110 mg).

reactant | tert-butyl 4,4′-(6-(2,2,2-trifluoroethoxy)-1,3,5-triazine-2,4-diyl)bis(azanediyl)dibenzoate | 562 mg | FC(COC1=NC(=NC(=N1)NC1=CC=C(C(=O)[O-])C=C1)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)(F)F
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4,4′-(6-(2,2,2-trifluoroethoxy)-1,3,5-triazine-2,4-diyl)bis(azanediyl)dibenzoic acid | 110 mg | FC(COC1=NC(=NC(=N1)NC1=CC=C(C(=O)O)C=C1)NC1=CC=C(C(=O)O)C=C1)(F)F | C19H14F3N5O5
